US05545638
3-(3-(3-Carboxypropylthio)-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro-1-methylpyridine
A solution of 3-(3-(3-carboxypropylthio)-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro-1-methylpyridine hydrochloride (0.70 g, 2 mmol) in concentrated hydrochloric acid (10 ml) was heated at reflux for 6 hours. The reaction mixture was evaporated at reduced pressure. The residue was dissolved in water and neutralized with a sodiumhydroxide solution giving the title compound in 80% yield. M.p. 99°-101 ° C. Compound 258.

reactant | 3-(3-(3-carboxypropylthio)-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro-1-methylpyridine hydrochloride | 2 mmol, 0.70 g | Cl.C(=O)(O)CCCSC1=NSN=C1C=1CN(CCC1)C
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 3-(3-(3-Carboxypropylthio)-1,2,5-thiadiazol-4-yl)-1,2,5,6-tetrahydro-1-methylpyridine | 80% yield | C(=O)(O)CCCSC1=NSN=C1C=1CN(CCC1)C | C12H17N3O2S2
